US04045576
Sodium 2-amino-3-(4-chlorobenzoyl)phenylacetate Hydrate.
A mixture of 3.5 g. (0.0125 mole) of 2-amino-3-(p-chlorobenzoyl)phenylacetic acid in a water solution containing 0.5 g. of sodium hydroxide (0.125 mole) was refluxed 45 minutes, cooled and filtered. The filtrate was concentrated to an oily consistency and poured into a large volume of acetone. A yellow precipitate separated which was collected and identified by nuclear magnetic resonance spectrum as the desired product. The product (2.6 g.) 67%) melted at 265° C. (dec.) after crystallization from ethanol-ethyl ether.

reactant | 2-amino-3-(p-chlorobenzoyl)phenylacetic acid | 0.0125 mole | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)O | C15H12ClNO3
reactant | sodium hydroxide | 0.125 mole | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium 2-amino-3-(4-chlorobenzoyl)phenylacetate Hydrate | O.NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)[O-].[Na+] | InChI=1S/C15H12ClNO3.Na.H2O/c16-11-6-4-9(5-7-11)15(20)12-3-1-2-10(14(12)17)8-13(18)19;;/h1-7H,8,17H2,(H,18,19);;1H2/q;+1;/p-1
